US07160888B2
Synthesis of 7-{5-[4-(5,6,7.8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one (0.225 g, 0.523 mmol) was hydrogenated using Ra—Ni (0.25 g) in THF for 16 hours. The reaction was filtered and concentrated to give a foam. This was dissolved in Et2O and 1M HCl in Et2O (1 equiv) was added. The precipitate was filtered and dried to give the title compound as a white solid (0.157 g, 70%). MS: APCI: M+1: 433.4 (Exact Mass: 432.29).

reactant | 7-{5-[4-(5,6,7,8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.523 mmol, 0.225 g | C1(=CC=CC=2CCCCC12)N1CCN(CC1)CCCC=CC1=CC=C2CCC(NC2=N1)=O | C27H34N4O
reactant | HCl | 1M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
catalyst | Ra—Ni | 0.25 g | [Ni] | Ni
solvent | Et2O | 1 equiv | CCOCC | C4H10O
product | 7-{5-[4-(5,6,7.8-Tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.157 g, 70% | C1(=CC=CC=2CCCCC12)N1CCN(CC1)CCCCCC1=CC=C2CCC(NC2=N1)=O | C27H36N4O
